US06156700
Preparation of 2-Chloro-2'-methoxy-5-nitrobenzophenone
A solution of 2-bromoanisole (27.9 g, 145 mmol) in diethyl ether is cooled to -70° C., treated with butyllithium (64.0 mL, 160 mmol), stirred at -70° C. for one hour, treated with 0.5 M zinc chloride in tetrahydrofuran solution (320 mL, 160 mmol), stirred for one hour at -70° C., warmed to about 0° C., and concentrated in vacuo to obtain a yellow-green oil. A solution of the oil in tetrahydrofuran is treated sequentially with tetrakis(triphenylphosphine)palladium(0) (5.00 g, 4.35 mmol) and a solution of 2-chloro-5-nitrobenzoyl chloride (35.0 g, 159 mmol) in tetrahydrofuran, stirred for three days, and poured into 10% hydrochloric acid. The resultant aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a semi-solid. The solid is triturated with diethyl ether to give the title product as a yellow solid which is identified by NMR spectral analyses.

reactant | 2-bromoanisole | 145 mmol, 27.9 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | butyllithium | 160 mmol, 64.0 mL | C(CCC)[Li]
reactant | 2-chloro-5-nitrobenzoyl chloride | 159 mmol, 35.0 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.35 mmol, 5.00 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 160 mmol, 320 mL | O1CCCC1 | C4H8O
product | 2-Chloro-2'-methoxy-5-nitrobenzophenone | ClC1=C(C(=O)C2=C(C=CC=C2)OC)C=C(C=C1)[N+](=O)[O-] | C14H10ClNO4
